US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(3,3,3-trifluoro-2-hydroxypropylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg), 1-amino-3,3,3-trifluoro-2-propanol (120 mg) and triethylamine (120 mg) were added to pyridine (400 mg), and the mixture was stirred for 20 hours at room temperature and for 6 hours at 60° C. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (3 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Concentrated hydrochloric acid (150 mg) was added to the residue, and the mixture was concentrated under reduced pressure. Ethanol (2 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (153 mg) as a colorless powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | 1-amino-3,3,3-trifluoro-2-propanol | 120 mg | NCC(C(F)(F)F)O | C3H6F3NO
reactant | triethylamine | 120 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 400 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(3,3,3-trifluoro-2-hydroxypropylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 153 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCC(C(F)(F)F)O)F)=O)C(=O)O)F)F | C19H12ClF6N3O4
